US06303649B1
A mixture of (2R)-5-t-butyldiphenylsiloxy-2-hydroxy-2-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalene (0.49 g) and N,N-di(4-fluorophenyl)carbamoyl chloride (1.08 g) in pyridine (2.3 ml) was stirred at 100° C. for 1.5 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, 1N-HCl, and evaporated in vacuo. The residue was purified by chromatography on silica gel (50 ml) using a mixture of AcOEt and n-hexane to give (2R)-5-t-butyldiphenylsiloxy-2-{[N,N-di(4-fluorophenyl)-carbamoyloxy]methyl}-2-hydroxy-1,2,3,4-tetrahydronaphthalene (0.356 g) as an oil.

reactant | (2R)-5-t-butyldiphenylsiloxy-2-hydroxy-2-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalene | 0.49 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=C2CC[C@@](CC2=CC=C1)(CO)O | C27H32O3Si
reactant | N,N-di(4-fluorophenyl)carbamoyl chloride | 1.08 g | FC1=CC=C(C=C1)N(C(=O)Cl)C1=CC=C(C=C1)F | C13H8ClF2NO
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
product | (2R)-5-t-butyldiphenylsiloxy-2-{[N,N-di(4-fluorophenyl)-carbamoyloxy]methyl}-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 0.356 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=C2CC[C@](CC2=CC=C1)(O)COC(N(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C40H39F2NO4Si
